* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 16.5
R1 n1 a 5
R2 a nc 2
V2 nc nd DC 29.2
R3 nd ne 4
V3 b ne DC 11.7
V4 nf b DC 13
R4 nf 0 3
.op
.print dc V(a) V(b)
.end